US07314888B1
In 15 ml of methylene chloride is dissolved 1.50 g of methyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]acetate, to which is added 1.06 g of aluminum chloride at ambient temperature. The mixture is stirred at ambient temperature for 2 hours. The reaction mixture is added to a mixture of chloroform and ice water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.62 g of methyl 2-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isobutoxyphenyl]acetate as a yellow-colored solid product.

reactant | methyl 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]acetate | 1.50 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CC(=O)OC)OCC(C)C)C=CC(=C1)OCC(C)C | C28H38O6
reactant | aluminum chloride | 1.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-[5-(2-hydroxy-4-isobutoxybenzoyl)-2-isobutoxyphenyl]acetate | 0.62 g | OC1=C(C(=O)C=2C=CC(=C(C2)CC(=O)OC)OCC(C)C)C=CC(=C1)OCC(C)C | C24H30O6
